### PR TITLE
feat(FullBetaEta): redex_app_l_cong, redex_app_r_cong

### PR DESCRIPTION
**Pull request by lengyijun**
This PR introduces `FullBetaEta.redex_app_l_cong` and `FullBetaEta.redex_app_r_cong`

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
+/-
+Copyright (c) 2026 Maximiliano Onofre Martínez. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Maximiliano Onofre Martínez
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean]: Please update with your own name.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+
+open Relation
+
+/-- Full βη-reduction. -/
+@[reduction_sys "βηᶠ"]
+abbrev FullBetaEta : Term Var → Term Var → Prop := FullBeta ⊔ FullEta
+
+namespace FullBetaEta
+
+theorem redex_app_l_cong (redex : M ↠βηᶠ M') (lc_N : LC N) : app M N ↠βηᶠ app M' N := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean:40]: We (mostly) follow the [Mathlib style guide](https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems), which gives instructions on indentation. The relevant piece here is:

> After stating the theorem, we indent the lines in the subsequent proof by 2 spaces

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+induction redex with
+| refl => grind
+| tail _ h ih =>  apply Relation.ReflTransGen.trans ih
+                  apply Relation.ReflTransGen.single
+                  cases h
+                  · left
+                    apply Xi.appR <;> grind
+                  · right
+                    apply Xi.appR <;> grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaEta.lean]: For the tail case, I think it is nicer to write this a bit more directly:

```suggestion
  | tail _ h ih =>
  refine .trans ih (.single ?_)
  rcases h with h | h
  · exact join_inl (h.appR lc_N)
  · exact join_inr (h.appR lc_N)
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

**Review by chenson2018 — APPROVED** [review]
Thanks!
